US04436662
In one portion, 1 ml of 30% hydrogen peroxide was added to 40 ml of a 1% solution of concentrated sulfuric acid in acetic acid. After stirring for 1 hour, 2.0 g (5.8 mmol) of 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine were added, and the resulting mixture was stirred at room temperature for 30 minutes. The mixture was diluted with methylene chloride and neutralized with concentrated ammonium hydroxide solution. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to a dark residue. Crystallization from ethyl acetate gave 8-chloro-6-(2-chlorophenyl)-1,4-dihydro-1-methylpyrrolo[3,4-d][2]benzazepin-3(2H)-one as pale yellow prisms, mp 239°-241° C.

reactant | hydrogen peroxide | 1 ml | OO | H2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | 5.8 mmol, 2.0 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3C)C=C1 | C19H14Cl2N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 8-chloro-6-(2-chlorophenyl)-1,4-dihydro-1-methylpyrrolo[3,4-d][2]benzazepin-3(2H)-one | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C(NC3C)=O)C=C1 | C19H14Cl2N2O
